### PR TITLE
[Merged by Bors] - feat(Topology): every compact metric space is image of Cantor set  

### PR DESCRIPTION
**Pull request by vasnesterov**
1. Add `cantorToHilbert`: a continuous surjection from the Cantor space (`ℕ → Bool`) to the Hilbert Cube (`ℕ → unitInterval`).
2. Prove `exists_nat_bool_continuous_surjective_of_compact`: for every nonempty compact metric space X there is a continuous surjection from the Cantor space to X. This is known as Hausdorff–Alexandroff theorem.
3. Add auxiliary constructions for homeomorphisms: 
* `Equiv.toHomeomorphOfDiscrete`: any bijection between discrete spaces is a homeomorphism
* `Homeomorph.piCurry`: `(X × Y → Z) ≃ₜ (X → Y → Z)`

---

- [x] depends on: #26027
- [x] depends on: #26149

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

File: Mathlib/Analysis/Real/OfDigits.lean [hunk 1]
```diff
@@ -155,6 +155,25 @@ theorem ofDigits_digits {b : ℕ} [NeZero b] {x : ℝ} (hb : 1 < b) (hx : x ∈
...
+    simp only [Set.mem_univ, ofDigits, ofDigitsTerm, hy', true_and, ← inv_pow]
+    rw [Summable.tsum_mul_left]
+    · rw [geom_series_succ _ (by simp [inv_lt_one_iff₀, hb]),
+        tsum_geometric_of_lt_one (by positivity) (by simp [inv_lt_one_iff₀, hb])]
+      push_cast [hb]
+      have : 0 < (b : ℝ) - 1 := by rify at hb; linarith
+      field_simp
+      ring
+    · rw [summable_nat_add_iff (f := fun n ↦ (b : ℝ)⁻¹ ^ n) 1]
+      apply summable_geometric_of_lt_one (by positivity) (by simp [inv_lt_one_iff₀, hb])
```
Comment (dagurtomas) [inline Mathlib/Analysis/Real/OfDigits.lean]:
```suggestion
theorem ofDigits_const_last_eq_one {b : ℕ} (hb : 1 < b) :
    ofDigits (fun _ ↦ (⟨b - 1, Nat.sub_one_lt_of_lt hb⟩ : Fin b)) = 1 := by
  simp only [ofDigits, ofDigitsTerm, ← inv_pow]
  rw [Summable.tsum_mul_left]
  · rw [geom_series_succ _ (by simp [inv_lt_one_iff₀, hb]),
      tsum_geometric_of_lt_one (by positivity) (by simp [inv_lt_one_iff₀, hb])]
    push_cast [hb]
    have : 0 < (b : ℝ) - 1 := by rify at hb; linarith
    field_simp
    ring
  · rw [summable_nat_add_iff (f := fun n ↦ (b : ℝ)⁻¹ ^ n) 1]
    apply summable_geometric_of_lt_one (by positivity) (by simp [inv_lt_one_iff₀, hb])

theorem ofDigits_SurjOn {b : ℕ} [NeZero b] (hb : 1 < b) :
    Set.SurjOn (ofDigits (b := b)) Set.univ (Set.Icc 0 1) := by
  intro y hy
  by_cases hy' : y ∈ Set.Ico 0 1
  · use digits y b
    simp [ofDigits_digits hb hy']
  · simp only [Set.image_univ, show y = 1 by grind, Set.mem_range]
    exact ⟨_, ofDigits_const_last_eq_one hb⟩
```

File: Mathlib/Topology/MetricSpace/HausdorffAlexandroff.lean [hunk 2]
```diff
@@ -0,0 +1,87 @@
...
+
+The proof consists of three steps. Let `X` be a compact metric space.
+
+1. Every compact metric space is homeomorphic to a closed subset of the Hilbert cube.
+   This is already proved in `Mathlib.Topology.Compactness.HilbertCubeEmbedding`. Using this result,
+   we may assume that `X` is a closed subset of the Hilbert cube.
+2. We construct a continuous surjection `cantorToHilbert` from the Cantor space to the Hilbert
+   cube.
+3. Taking the preimage of `X` under this surjection, it remains to prove that any closed
+   subset of the Cantor space is the continuous image of the Cantor space.
```
Comment (dagurtomas) [inline Mathlib/Topology/MetricSpace/HausdorffAlexandroff.lean:34]: Say where this is proved / the name of this declaration

File: Mathlib/Topology/MetricSpace/HausdorffAlexandroff.lean [hunk 3]
```diff
@@ -0,0 +1,87 @@
...
+  obtain ⟨f, hf_continuous, hf_surjective⟩ := exists_retractionCantorSet hKC_closed hKC_nonempty
+  let f' : (ℕ → Bool) → KC := Subtype.coind f (by simp [← hf_surjective])
+  have hf'_continuous : Continuous f' := Continuous.subtype_mk hf_continuous _
+  have hf'_surjective : Function.Surjective f' := Subtype.coind_surjective _ (by grind [Set.SurjOn])
+  let g : X ≃ₜ KH := h_emb.toIsEmbedding.toHomeomorph
+  let h : KC → KH := KH.restrictPreimage cantorToHilbert
+  have hh_continuous : Continuous h := Continuous.restrictPreimage cantorToHilbert_continuous
+  have hh_surjective : Function.Surjective h :=
+    Set.restrictPreimage_surjective _ cantorToHilbert_surjective
+  use g.symm ∘ h ∘ f', by fun_prop, g.symm.surjective.comp <| hh_surjective.comp hf'_surjective
```
Comment (dagurtomas) [inline Mathlib/Topology/MetricSpace/HausdorffAlexandroff.lean]: Could you add some comments throughout the proof explaining what you're doing? Also, add a docstring explaining what this theorem says and mentioning the name "Hausdorff-Alexandroff"

**Review by dagurtomas — COMMENTED** [review]
Almost there!

File: Mathlib/Analysis/Real/OfDigits.lean (hunk 1 above)
Comment (dagurtomas) [reply Mathlib/Analysis/Real/OfDigits.lean]: These are your changes from #26149, I just fixed a linting error

File: Mathlib/Topology/MetricSpace/HausdorffAlexandroff.lean [hunk 4]
```diff
@@ -0,0 +1,99 @@
...
+  have hf'_continuous : Continuous f' := Continuous.subtype_mk hf_continuous _
+  have hf'_surjective : Function.Surjective f' := Subtype.coind_surjective _ (by grind [Set.SurjOn])
+  -- Let `h` be the restriction of `cantorToHilbert` to `KC → KH`.
+  let h : KC → KH := KH.restrictPreimage cantorToHilbert
+  have hh_continuous : Continuous h := Continuous.restrictPreimage cantorToHilbert_continuous
+  have hh_surjective : Function.Surjective h :=
+    Set.restrictPreimage_surjective _ cantorToHilbert_surjective
+  -- Take the composition `g.symm ∘ h ∘ f'` as the desired continuous surjection from the Cantor
+  -- space to `X`.
+  use g.symm ∘ h ∘ f', by fun_prop, g.symm.surjective.comp <| hh_surjective.comp hf'_surjective
```
Comment (dagurtomas) [inline Mathlib/Topology/MetricSpace/HausdorffAlexandroff.lean]:
```suggestion
  exact ⟨g.symm ∘ h ∘ f', by fun_prop, g.symm.surjective.comp <| hh_surjective.comp hf'_surjective⟩
```

File: Mathlib/Topology/Constructions.lean [hunk 5]
```diff
@@ -752,6 +752,16 @@ lemma Pi.induced_precomp [TopologicalSpace Y] {ι' : Type*} (φ : ι' → ι) :
     ⨅ i', induced (eval (φ i')) ‹TopologicalSpace Y› :=
   induced_precomp' φ
 
+/-- Homeomorphism between `X → Y → Z` and `X × Y → Z` with product topologies. -/
+def Homeomorph.piCurry {X Y Z : Type*}
```
Comment (riccardobrasca) [inline Mathlib/Topology/Constructions.lean:757]: Can you add a simps tag?

**Review by riccardobrasca — COMMENTED** [review]
Thanks!

bors d+

File: Mathlib/Topology/Constructions.lean (hunk 5 above)
Comment (riccardobrasca) [reply Mathlib/Topology/Constructions.lean:757]: simps, not simp

Comment (vasnesterov) [reply Mathlib/Topology/Constructions.lean:757]: Ah, sorry
